US09034866B2
Synthesis of (±)-8-Fluoro-9-(4-fluoro-3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide
The title compound was prepared according to a procedure similar to that described in Procedure G. Into a 10-mL sealed tube purged and maintained with an inert atmosphere of nitrogen, was placed a suspension of 13-bromo-12-fluoro-9-oxa-5-thia-3-azatricyclo[8.4.0.0[2,6]]tetradeca-1(14),2(6),3,10,12-pentaene-4-carboxamide (200 mg, 0.58 mmol, 1.00 equiv), 1-fluoro-2-methylbut-3-yn-2-ol (360 mg, 1.76 mmol, 3.00 equiv) and Pd(PPh3)Cl2 (82 mg, 0.20 equiv) in DMSO (0.5 mL) and triethylamine (0.5 mL). The final reaction mixture was irradiated with microwave radiation for 1 h at 70° C. The resulting solution was diluted with 10 mL of water. The resulting solution was extracted with 3×15 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with DCM:MeOH (10:1). This resulted in 0.06 g (28%) of 8-Fluoro-9-(4-fluoro-3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide. LC-MS: (ES, m/z): 365[M+H]+; 1H-NMR: (400 MHz, CD3OD, ppm) δ 8.708 (d, 1H), 6.857 (d, 1H), 4.427 (t, 2H), 4.410 (d, 2H), 3.442 (t, 2H), 1.601 (s, 3H).

reactant | 13-bromo-12-fluoro-9-oxa-5-thia-3-azatricyclo[8.4.0.0[2,6]]tetradeca-1(14),2(6),3,10,12-pentaene-4-carboxamide | 0.58 mmol, 200 mg, 1.00 equiv | BrC1=C(C=C2OCCC=3SC(=NC3C2=C1)C(=O)N)F | C12H8BrFN2O2S
reactant | 1-fluoro-2-methylbut-3-yn-2-ol | 1.76 mmol, 360 mg, 3.00 equiv | FCC(C#C)(O)C | C5H7FO
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | water | 10 mL | O | H2O
product | (±)-8-Fluoro-9-(4-fluoro-3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide | FC1=CC2=C(C=3N=C(SC3CCO2)C(=O)N)C=C1C#CC(CF)(C)O | C17H14F2N2O3S
